US08809331B2
To (5-methoxy-2-methyl-4-nitrophenyl)(morpholino)methanone (1.76 g, 6.3 mmol) in ethanol (25 mL) and water (25 mL) was added ammonium chloride (1.72 g, 31.5 mmol) and iron powder (1.41 g, 25.2 mmol). The mixture was heated to 90° C. for 2 hours and then filtered through celite, washed through with ethanol. The solvent was removed in vacuo and the residue was partitioned between water (50 mL) and DCM (50 mL). The layers were separated and the aqueous phase was washed with DCM (3×50 mL). The combined organic phases were dried over MgSO4, filtered and the solvent removed in vacuo. The residue was triturated with diethyl ether/40-60 petroleum ether and dried to give (4-amino-5-methoxy-2-methylphenyl)(morpholino)methanone (1.31 g, 82%) as an off-white solid.

reactant | (5-methoxy-2-methyl-4-nitrophenyl)(morpholino)methanone | 6.3 mmol, 1.76 g | COC=1C(=CC(=C(C1)C(=O)N1CCOCC1)C)[N+](=O)[O-] | C13H16N2O5
reactant | ammonium chloride | 31.5 mmol, 1.72 g | [Cl-].[NH4+]
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | water | 25 mL | O | H2O
catalyst | iron | 25.2 mmol, 1.41 g | [Fe] | Fe
product | (4-amino-5-methoxy-2-methylphenyl)(morpholino)methanone | 1.31 g, 82% | NC1=CC(=C(C=C1OC)C(=O)N1CCOCC1)C | C13H18N2O3
